US05387710
To an ice-cooled mixture of L-tyrosine benzyl ester p-toluenesulfonate (41.0 g), pyridine (16.4 ml), and dichloromethane (92 ml) was added methyl chloroformate (7.8 ml). The mixture was stirred in an ice-bath for 1 hour, diluted with water, and extracted once with dichloromethane. The extract was concentrated in vacuo and the residue was dissolved in ethyl acetate, washed with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo. Purification of the crude product by column chromatography on silica gel (gradient elution; 10:1 to 5:1 chloroform-ethyl acetate) gave N-methoxycarbonyl-L-tyrosine benzyl ester (22.0 g).

reactant | L-tyrosine benzyl ester p-toluenesulfonate | 41.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC([C@@H](N)CC1=CC=C(C=C1)O)=O
reactant | pyridine | 16.4 ml | N1=CC=CC=C1 | C5H5N
reactant | dichloromethane | 92 ml | ClCCl | CH2Cl2
reactant | methyl chloroformate | 7.8 ml | ClC(=O)OC | C2H3ClO2
solvent | water | O | H2O
product | N-methoxycarbonyl-L-tyrosine benzyl ester | 22.0 g | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC)CC1=CC=C(C=C1)O)=O | C18H19NO5
